US09278950B2
Step 6. 3-Amino-N-[4-(3-aminocyclohexyl)pyridin-3-yl]-7-ethylquinoline-2-carboxamide
A mixture of 3-amino-7-ethylquinoline-2-carboxylic acid (0.040 g, 0.18 mmol), 2-[3-(3-aminopyridin-4-yl)cyclohexyl]-1H-isoindole-1,3(2H)-dione (0.055 g, 0.17 mmol), HATU (0.22 g, 0.58 mmol), DMF (0.65 mL) and DIPEA (0.076 g, 0.59 mmol) was stirred at room temperature for 16 h. Aq. NaOH (1 M) was added to the reaction mixture, and a precipitate formed, which was collected by vacuum filtration. The collected solid was washed with 1 M NaOH, followed by water and dried under vacuum to afford an intermediate. The intermediate was dissolved in DMF (0.15 mL) and hydrazine (0.15 mL) was added. The resulting reaction mixture was stirred at room temperature for 16 h, diluted with MeOH, filtered and purified by preparative LC MS (XBridge™ preparative C18 5 μm 30×10 mm OBD™ column, flow rate 60 mL/min., eluting with a gradient of MeCN and water with 0.15% NH4OH) to give title compound. LCMS calc. for C23H28N5O (M+H)+: m/z=390.2. Found: 390.1.

reactant | 3-amino-7-ethylquinoline-2-carboxylic acid | 0.18 mmol, 0.040 g | NC=1C(=NC2=CC(=CC=C2C1)CC)C(=O)O | C12H12N2O2
reactant | 2-[3-(3-aminopyridin-4-yl)cyclohexyl]-1H-isoindole-1,3(2H)-dione | 0.17 mmol, 0.055 g | NC=1C=NC=CC1C1CC(CCC1)N1C(C2=CC=CC=C2C1=O)=O | C19H19N3O2
reactant | HATU | 0.58 mmol, 0.22 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.59 mmol, 0.076 g | CCN(C(C)C)C(C)C | C8H19N
reactant | NaOH | 1 M | [OH-].[Na+]
reactant | hydrazine | 0.15 mL | NN | H4N2
solvent | DMF | 0.15 mL | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
solvent | DMF | 0.65 mL | CN(C)C=O | C3H7NO
product | 3-Amino-N-[4-(3-aminocyclohexyl)pyridin-3-yl]-7-ethylquinoline-2-carboxamide | NC=1C(=NC2=CC(=CC=C2C1)CC)C(=O)NC=1C=NC=CC1C1CC(CCC1)N | C23H27N5O
